US07582773B2
Step 3: Synthesis of 1-Benzyl-4-(4-methoxy-phenyl)-3-methyl-2-phenyl-1H-indole.
The desired product was prepared using a procedure similar to step 3 of example 3. Thus, 1-benzyl-4-bromo-3-methyl-2-phenyl-1H-indole (1.286 g, 3.651 mmol) was reacted with aqueous 2M K2CO3 (3.7 ml), 4-methoxyphenylboronic acid (0.777 g, 5.111 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (0.089 g, 0.110 mmol) in dioxane (37 ml) to give the product (1.029 g, 2.550 mmol, 70%) as a white solid, mp 93-95° C. 1H NMR (DMSO-d6) δ 1.73 (s, 3H), 3.80 (s, 3H), 5.29 (s, 2H), 6.84 (dd, J=0.8, 7.2 Hz, 1H), 6.88 (d, J=7.2 Hz, 2H), 6.97-7.00 (m, 2H), 7.11 (t, J=7.3 Hz, 1H), 7.17 (t, J=7.2 Hz, 1H), 7.22 (t, J=6.9 Hz, 2H), 7.30-7.35 (m, 5H), 7.39-7.47 (m, 3H); [ESI(+)], m/z 404 (M+H)+.

reactant | 1-benzyl-4-bromo-3-methyl-2-phenyl-1H-indole | 3.651 mmol, 1.286 g | C(C1=CC=CC=C1)N1C(=C(C2=C(C=CC=C12)Br)C)C1=CC=CC=C1 | C22H18BrN
reactant | K2CO3 | 2M, 3.7 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-methoxyphenylboronic acid | 5.111 mmol, 0.777 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | dichloromethane | 0.110 mmol, 0.089 g | ClCCl | CH2Cl2
solvent | dioxane | 37 ml | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-Benzyl-4-(4-methoxy-phenyl)-3-methyl-2-phenyl-1H-indole | C(C1=CC=CC=C1)N1C(=C(C2=C(C=CC=C12)C1=CC=C(C=C1)OC)C)C1=CC=CC=C1 | C29H25NO
